US08809333B2
To a solution of the 4-methylpyrazole (143 mg, 1.74 mmol, 1 eq) and (R)-ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate (500 mg 1.74 mmol, 1 eq) in THF (10 mL) was added cesium carbonate (2.27 g, 6.96 mmol, 4 eq). The resulting suspension was heated to 55° C. and allowed to stir overnight. The reaction was then diluted with EtOAc (10 mL) and the mixture filtered through a pad of celite, which was eluted with ˜10 mL of EtOAc. The crude material was purified by flash chromatography on a 40 g silica gel column eluting with an heptane/ethyl acetate/MeOH gradient) to give ethyl (2R)-2-methyl-4-(4-methyl-1H-pyrazol-1-yl)-2-(methylsulfonyl)butanoate which was used directly in the next step. 1H NMR (400 MHz, CHLOROFORM-d) δ 7.27 (s, 1H), 7.13 (s, 1H), 4.30-4.11 (m, 2H), 3.03 (s, 3H), 2.80-2.71 (m, 1H), 2.51-2.41 (m, 1H), 2.04 (s, 3H), 1.66 (s, 3H). LC-MS M+H+289.4.

reactant | 4-methylpyrazole | 1.74 mmol, 143 mg, 1 eq | CC=1C=NNC1 | C4H6N2
reactant | (R)-ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate | 1.74 mmol, 500 mg, 1 eq | BrCC[C@](C(=O)OCC)(S(=O)(=O)C)C | C8H15BrO4S
reactant | cesium carbonate | 6.96 mmol, 2.27 g, 4 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | ethyl (2R)-2-methyl-4-(4-methyl-1H-pyrazol-1-yl)-2-(methylsulfonyl)butanoate | C[C@](C(=O)OCC)(CCN1N=CC(=C1)C)S(=O)(=O)C | C12H20N2O4S
